US06492394B1
To a solution of 2(R)-(4-methoxy-2,3,6-trimethylbenzenesulfonyl-amino)-3(S)-(triethylsilyloxy)butyric acid 3,4-methylenedioxybenzyl ester (3.3 g, 5.7 mmol) in benzene (100 mL) at 0° C. was added 3,4-methylenedioxyphenyl methanol (1.3 g, 8.5 mmol), tri-n-butylphosphine (2.1 mL, 8.5 mmol), followed by 1,1′-[azodicarbonyl]dipiperidine (2.2 g, 8.5 mmol). The reaction mixture was allowed to warm to room temperature over 4 h. After 72 h, the reaction mixture was diluted with an equal volume of hexanes, cooled to 0° C. for 2 h and filtered. The residue was concentrated and chromatographed (300 g SiO2, 15% ethyl acetate-hexanes) to afford 2(R)-[(3,4-methylenedioxybenzyl)-(4-methoxy-2,3,6-trimethylbenzenesulfonyl)amino]-3(S)-(triethylsilyloxy)butyric acid 3,4-methylenedioxybenzyl ester (3.3 g) as a yellow oil.

reactant | 2(R)-(4-methoxy-2,3,6-trimethylbenzenesulfonyl-amino)-3(S)-(triethylsilyloxy)butyric acid 3,4-methylenedioxybenzyl ester | 5.7 mmol, 3.3 g | C1OC=2C=C(COC([C@@H]([C@H](C)O[Si](CC)(CC)CC)NS(=O)(=O)C3=C(C(=C(C=C3C)OC)C)C)=O)C=CC2O1 | C28H41NO8SSi
reactant | 3,4-methylenedioxyphenyl methanol | 8.5 mmol, 1.3 g | C1OC=2C=C(C=CC2O1)CO | C8H8O3
reactant | tri-n-butylphosphine | 8.5 mmol, 2.1 mL | C(CCC)P(CCCC)CCCC | C12H27P
reactant | 1,1′-[azodicarbonyl]dipiperidine | 8.5 mmol, 2.2 g | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
solvent | benzene | 100 mL | C1=CC=CC=C1 | C6H6
product | 2(R)-[(3,4-methylenedioxybenzyl)-(4-methoxy-2,3,6-trimethylbenzenesulfonyl)amino]-3(S)-(triethylsilyloxy)butyric acid 3,4-methylenedioxybenzyl ester | 3.3 g | C1OC=2C=C(COC([C@@H]([C@H](C)O[Si](CC)(CC)CC)N(S(=O)(=O)C3=C(C(=C(C=C3C)OC)C)C)CC3=CC4=C(C=C3)OCO4)=O)C=CC2O1 | C36H47NO10SSi
